US07960369B2
N-[3-[4-[(5-chloro-2,3-dihydro-1H-inden-1-yl)oxy]phenyl]propyl]acetamide
To a solution of 4-[(5-chloro-2,3-dihydro-1H-inden-1-yl)oxy]benzenepropanenitrile (0.50 g, 1.7 mmol) in tetrahydrofuran (25 mL) was added lithium aluminum hydride (77 mg, 2.0 mmol) under ice-cooling, and the mixture was stirred in an ice bath for 3 hrs. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with water and concentrated under reduced pressure. The obtained oil was dissolved in pyridine (20 mL), acetic anhydride (0.18 mL, 0.95 mmol) was added, and the mixture was stirred at room temperature for 3 hrs. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with water and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate) to give the title compound (0.11 g, yield 18%).

reactant | 4-[(5-chloro-2,3-dihydro-1H-inden-1-yl)oxy]benzenepropanenitrile | 1.7 mmol, 0.50 g | ClC=1C=C2CCC(C2=CC1)OC1=CC=C(C=C1)CCC#N | C18H16ClNO
reactant | lithium aluminum hydride | 2.0 mmol, 77 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | O | H2O
reactant | acetic anhydride | 0.95 mmol, 0.18 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | N-[3-[4-[(5-chloro-2,3-dihydro-1H-inden-1-yl)oxy]phenyl]propyl]acetamide | 0.11 g, yield 18% | ClC=1C=C2CCC(C2=CC1)OC1=CC=C(C=C1)CCCNC(C)=O | C20H22ClNO2
